US07897766B2
5-(3-Trifluoromethylphenyl)-furan-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 5-[3-(trifluoromethyl)phenyl]-2-furoic acid (Aldrich) according to methods A and C; yield 29 mg, 0.07 mmol (31%): 1H NMR (300 MHz, methanol-d4) δ 2.09-2.30 (m, 5H), 2.52 (s, 2H), 3.50 (d, J=13 Hz, 2H), 3.57 (s, 2H), 3.83 (d, J=13 Hz, 2H), 4.28 (s, 1H), 7.12 (d, J=4 Hz, 1H), 7.34 (d, J=4 Hz, 1H), 7.63-7.69 (m, 2H), 8.10-8.18 (m, 1H), 8.24 (s, 1H); MS (DCI/NH3) m/z 391 (M+H)+; Anal. C21H21F3N2O2.HCl 0.9H2O: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 5-[3-(trifluoromethyl)phenyl]-2-furoic acid | FC(C=1C=C(C=CC1)C1=CC=C(O1)C(=O)O)(F)F | C12H7F3O3
reactant | NH3 | N | H3N
product | 5-(3-Trifluoromethylphenyl)-furan-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2OC(=CC2)C2=CC(=CC=C2)C(F)(F)F | InChI=1S/C21H21F3N2O2.ClH/c22-21(23,24)16-3-1-2-13(8-16)17-4-5-18(28-17)20(27)25-19-14-6-12-7-15(19)11-26(9-12)10-14;/h1-5,8,12,14-15,19H,6-7,9-11H2,(H,25,27);1H/t12?,14?,15?,19-;
